* source 1
.EXTERNAL OUTPUT F1
X_U1A         N15765 N15765 N14845 $G_DPWR $G_DGND 74LS00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N15769 N15769 N14849 $G_DPWR $G_DGND 74LS00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1C         N15780 N15780 N14853 $G_DPWR $G_DGND 74LS00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1D         N15761 N15761 N14841 $G_DPWR $G_DGND 74LS00 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5A         N14697 N14797 N14817 F1 $G_DPWR $G_DGND 74LS10 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5B         N14841 N14849 N14853 N14697 $G_DPWR $G_DGND 74LS10 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U5C         N14841 N15765 M_UN0001 N14797 $G_DPWR $G_DGND 74LS10 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U6A         N15761 N14845 N14849 N15780 N14817 $G_DPWR $G_DGND 74LS20 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_x2         STIM(1,0) $G_DPWR $G_DGND N15765 IO_STM STIMULUS=x2
U_x1         STIM(1,0) $G_DPWR $G_DGND N15761 IO_STM STIMULUS=x1
U_x4         STIM(1,0) $G_DPWR $G_DGND N15780 IO_STM STIMULUS=x4
U_x3         STIM(1,0) $G_DPWR $G_DGND N15769 IO_STM STIMULUS=x3
