* source 2
.EXTERNAL OUTPUT F1
U_x1         STIM(1,0) $G_DPWR $G_DGND N17095 IO_STM STIMULUS=x1
U_x2         STIM(1,0) $G_DPWR $G_DGND N17103 IO_STM STIMULUS=x2
U_x3         STIM(1,0) $G_DPWR $G_DGND N17111 IO_STM STIMULUS=x3
U_x4         STIM(1,0) $G_DPWR $G_DGND N17119 IO_STM STIMULUS=x4
X_U1A         0 0 N17095 N17099 $G_DPWR $G_DGND 74HC27 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         0 0 N17103 N17107 $G_DPWR $G_DGND 74HC27 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         0 0 N17119 N17123 $G_DPWR $G_DGND 74HC27 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2B         N17095 N17111 N17119 N17072 $G_DPWR $G_DGND 74HC27 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2C         N17095 N17107 N17111 N17068 $G_DPWR $G_DGND 74HC27 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U3B         N17072 N17068 N17056 N17049 $G_DPWR $G_DGND 74HC27 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4A         0 0 0 N17049 F1 $G_DPWR $G_DGND 74HC4002 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U4B         N17099 N17103 N17111 N17123 N17056 $G_DPWR $G_DGND 74HC4002
+  PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
